US09416132B2
A solution of compound tert-butyl 2-oxo-4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)piperidine-1-carboxylate (114 mg, 0.23 mmol) in CH2Cl2 (10 mL) was added TFA (2 mL). The mixture was stirred at room temperature for 30 min and condensed. The residue was purified by prep-HPLC to give 4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)piperidin-2-one (6 mg, 6.6%) as white solid.

reactant | tert-butyl 2-oxo-4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)piperidine-1-carboxylate | 0.23 mmol, 114 mg | O=C1N(CCC(C1)CNC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F)C(=O)OC(C)(C)C | C24H26F3N5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)piperidin-2-one | 6 mg, 6.6% | FC(OC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)NCC2CC(NCC2)=O)(F)F | C19H18F3N5O2
